US06281363B1
In a manner analogous to that described by S. Huybrechts and G. J. Hoornaert, Synthetic Communications, 11 (1), 17-23 (1981) for the preparation of 1,4,4-tricarbethoxypiperidine but using benzyl chloroformate in place of ethyl chloroformate there was obtained benzyl 4,4-dicarbethoxypiperidine-1-carboxylate in the form of an oil.

reactant | 1,4,4-tricarbethoxypiperidine | C(=O)(OCC)N1CCC(CC1)(C(=O)OCC)C(=O)OCC | C14H23NO6
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | benzyl 4,4-dicarbethoxypiperidine-1-carboxylate | C(=O)(OCC)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C19H25NO6
